US06589977B1
To a solution of 2,3-bis(1H-indol-3-yl)-N-methylmaleimide (14 mg, 0.04 mmol) synthesized according to a known method (Tetrahedron, Vol. 44, p. 2887, 1988) in DMF (1 mL) was added a small amount of 10% palladium-carbon and the whole was stirred at room temperature for 1 day under hydrogen atmosphere. The palladium-carbon was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography over silica gel (ethyl acetate:n-hexane=2:1) to obtain 3,4-bis(1H-indol-3-yl)-1-methy-2,5-dioxopyrrolidine (12.9 mg, 91.7%) as a mixture of two isomers (A:B=2.7:1.0) as pale red solids.

reactant | 2,3-bis(1H-indol-3-yl)-N-methylmaleimide | 0.04 mmol, 14 mg | N1C=C(C2=CC=CC=C12)C=1C(=O)N(C(C1C1=CNC2=CC=CC=C12)=O)C | C21H15N3O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | palladium-carbon | [C].[Pd]
product | 3,4-bis(1H-indol-3-yl)-1-methy-2,5-dioxopyrrolidine | 12.9 mg, 91.7% | N1C=C(C2=CC=CC=C12)C1C(N(C(C1C1=CNC2=CC=CC=C12)=O)C)=O | C21H17N3O2
